US06288036B1
From N-Boc-D-cHyp(Tosyloxy)-OMe (5.27 mmol, 2.50 g), powdered KOH (13.2 mmol, 0.74 g), and 4-nitrophenol (13.2 mmol, 1.83 g), held at reflux for 6 days, the 4-nitrophenyl ether of D-trans-hydroxyproline methyl ester (0.39 g, 20%, m.p. 154-155° C.) was obtained after purification by column chromatography (silica gel, ethyl acetate/hexane mixtures). Impure fractions (1.14 g) accounted for the low yield relative to L-hydroxyproline derivatives above. Elemental analysis for C17H22N2O7: Calculated C, 55.74; H, 6.05; N, 7.65. Found: Calculated C, 55.71; H, 6.08; N, 7.69.

reactant | KOH | 13.2 mmol, 0.74 g | [OH-].[K+]
reactant | 4-nitrophenol | 13.2 mmol, 1.83 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | 4-nitrophenyl ether | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O5
